US05081239
Synthesis of (2S,3R)-2-aminomethyl-3-hydroxybutyric acid
6.14 g (36.22 mmol) of (2S,3R)-2-aminomethyl-3-hydroxybutyric acid hydrochloride was added with 150 ml of acetonitrile, and further added, while cooled in ice, with 5.05 ml (36.22 mmol) of triethylamine, then subjected to a vigorous stirring for 2 days at room temperature. Powdery crystals precipitated were collected, washed with 100 ml of acetonitrile and filtered to obtain 4.07 g of the title compound in crystals (yield: 84%).

reactant | (2S,3R)-2-aminomethyl-3-hydroxybutyric acid hydrochloride | 36.22 mmol, 6.14 g | Cl.NC[C@H](C(=O)O)[C@@H](C)O
reactant | triethylamine | 36.22 mmol, 5.05 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | (2S,3R)-2-aminomethyl-3-hydroxybutyric acid | 4.07 g | NC[C@H](C(=O)O)[C@@H](C)O | C5H11NO3
